US07355199B2
2-(4-Methyl-thiophen-2-yl)-[1,3,2]dioxaborinane:
To a solution of 3-methylthiophene (10.0 g, 0.1 mol) in 120 ml of anhydrous diethyl ether was added 2.5 M n-BuLi in hexane(40 ml, 0.1 mol) at room temperature. After stirring at room temperature for 30 min, the resulting solution was refluxed for 1 h. The mixture was cooled down to −76° C. and trimethylborate (16.72 ml, 150 mol) was added slowly. The mixture was allowed to warm to room temperature and stirred for 2 h. After quenching with 10% HCl (150 ml), the organic layer was separated and the aqueous layer was extracted with ether (2×). The combined organic layer was dried over MgSO4, filtered and concentrated. The residue was added to 1,3-propanediol (7.3 ml, 0.1 mol) and refluxed for 3 h. The mixture was then placed directly on a silica column and eluted with hexane, then chloroform to give the product, 12.86 g, 71%. 1H NMR (CDCl3-d3, 500 MHz): δ 7.32 ppm (s, 1 H), 7.11 ppm (s, 1 H), 4.14-4.12 ppm (t, 4 H, J=8.6 Hz), 2.40 (s, 3 H), 2.04 ppm (m, 2 H); 13C-NMR (CDCl3, 500 MHz): δ 138.8, 137.8, 127.03 127.02, 62.09, 27.48, 15.23 ppm. EI, MS m/z (%): 182 (100, M+).

reactant | 3-methylthiophene | 0.1 mol, 10.0 g | CC1=CSC=C1 | C5H6S
reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | hexane | 0.1 mol, 40 ml | CCCCCC | C6H14
reactant | trimethylborate | 150 mol, 16.72 ml | COB(OC)OC | C3H9BO3
reactant | 1,3-propanediol | 0.1 mol, 7.3 ml | C(CCO)O | C3H8O2
solvent | diethyl ether | 120 ml | C(C)OCC | C4H10O
product | 2-(4-Methyl-thiophen-2-yl)-[1,3,2]dioxaborinane | CC=1C=C(SC1)B1OCCCO1 | C8H11BO2S
